data/oMe_Silver.jsonl
{"reaction_id": "NR-033_1-c1ccccc1_2-C#N_3-c1ccc(OC)cc1_4-c1ccccc1_5-C(=O)C_6-C_7-Br","name": "Buchner Ring Expansion","level": "medium","reactants_smiles": ["N#[N+][CH-]C(=O)c1ccccc1","c1(C#N)c(c1ccc(OC)cc1)c(c1ccccc1)c(C(=O)C)c(C)c1(Br)"],"products_smiles": ["[CH](C(=O)c1ccccc1)1C(C#N)=C(c1ccc(OC)cc1)C(c1ccccc1)=C(C(=O)C)C(C)=C1Br"],"conditions": "heat/Metal","mechanism": [{"step": 1,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "[CH]C(=O)c1ccccc1","step_weight": 0,"rationale": "Heating with metal catalyst promotes nitrogen extrusion from the diazo group, forming a carbene stabilized by adjacent carbonyl resonance."},{"step": 2,"type": "addition","subtype": "electrophilic_addition","intermediate_smiles": "C(C(=O)c1ccccc1)1C(C#N)2C(c1ccc(OC)cc1)=C(c1ccccc1)C(C(=O)C)=C(C)C2(Br)1","step_weight": 0,"rationale": "The electrophilic carbene adds to the electron-rich aromatic π-system, favored by carbene’s high reactivity and aromatic nucleophilicity."},{"step": 3,"type": "pericyclic","subtype": "electrocyclization","intermediate_smiles": "[CH](C(=O)c1ccccc1)1C(C#N)=C(c1ccc(OC)cc1)C(c1ccccc1)=C(C(=O)C)C(C)=C1Br","step_weight": 0,"rationale": "The strained bicyclic intermediate undergoes thermally allowed electrocyclic ring expansion to a more stable conjugated seven-membered ring."}],"description": "Under thermal and metal catalysis, the diazo ketone loses nitrogen to form a reactive carbene, which adds to the aromatic ring. The resulting bicyclic intermediate undergoes a pericyclic ring expansion, yielding the seven-membered ring product characteristic of the Buchner reaction."}
{"reaction_id": "NR-053_1-CCCC(C)C_2-CCCC(C)C_3-C(C)(C)C_4-C","name": "Dakin Oxidation","level": "easy","reactants_smiles": ["O=Cc1c(CCCC(C)C)cc(CCCC(C)C)c(C(C)(C)C)c1(C)","OO"],"products_smiles": ["Oc1c(CCCC(C)C)cc(CCCC(C)C)c(C(C)(C)C)c1(C)"],"conditions": "Aqueous Base (e.g. [OH-]), then Acid (e.g. HCl for workup)","mechnism_text_description": "The Dakin oxidation is the reaction between electron-rich aromatic aldehydes and hydrogen peroxide yielding phenols. It is a variant of the Baeyer-Villiger oxidation. The reaction was first described by Henry Drysdale Dakin in 1899.","mechanism_step_nums": 5,"mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "[O-][CH](OO)c1c(CCCC(C)C)cc(CCCC(C)C)c(C(C)(C)C)c1(C)","step_weight": 0,"rationale": "Hydroxide-activated hydrogen peroxide is a strong nucleophile, attacking the electrophilic aldehyde carbonyl due to polarization from the oxygen and resonance withdrawal by the aromatic ring substituents."},{"step": 2,"type": "rearrangement","subtype": "1,2-shift","intermediate_smiles": "O=COc1c(CCCC(C)C)cc(CCCC(C)C)c(C(C)(C)C)c1(C)","step_weight": 0,"rationale": "A 1,2-aryl shift occurs because the aromatic group stabilizes the developing positive charge via resonance, facilitating migration to the adjacent peroxide oxygen."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "[O-][CH](O)Oc1c(CCCC(C)C)cc(CCCC(C)C)c(C(C)(C)C)c1(C)","step_weight": 0,"rationale": "Hydroxide attacks the ester-like intermediate since the carbonyl carbon is electrophilic and activated by the adjacent oxygen, promoting nucleophilic addition."},{"step": 4,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "[O-]c1c(CCCC(C)C)cc(CCCC(C)C)c(C(C)(C)C)c1(C)","step_weight": 0,"rationale": "Elimination of the formate anion occurs as it is a good leaving group under basic conditions, driven by formation of the stable phenoxide anion."},{"step": 5,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "Oc1c(CCCC(C)C)cc(CCCC(C)C)c(C(C)(C)C)c1(C)","step_weight": 0,"rationale": "Acid workup protonates the phenoxide to yield the neutral phenol, favored by the stability of the aromatic hydroxyl product in acidic medium."}],"description": "Under basic conditions, hydrogen peroxide attacks the electron-deficient carbonyl of the aromatic aldehyde, followed by a rearrangement that shifts the aromatic ring to oxygen. Subsequent nucleophilic addition, elimination, and acid workup yield the phenol via Dakin oxidation."}
